US08975398B2
(S)-tert-butyl 4-(4-(1-(2-methylpyridin-3-yl)pyrrolidine-3-carboxamido)phenyl)piperidine-1-carboxylate
The title compound was prepared as described in Example 1C, substituting 3-bromo-2-methylpyridine for 3-bromopyridine and (S)-tert-butyl 4-(4-(pyrrolidine-3-carboxamido)phenyl)piperidine-1-carboxylate for tert-butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate.

reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | (S)-tert-butyl 4-(4-(pyrrolidine-3-carboxamido)phenyl)piperidine-1-carboxylate | N1C[C@H](CC1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H31N3O3
reactant | tert-butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | N1CC(C1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H29N3O4
product | (S)-tert-butyl 4-(4-(1-(2-methylpyridin-3-yl)pyrrolidine-3-carboxamido)phenyl)piperidine-1-carboxylate | CC1=NC=CC=C1N1C[C@H](CC1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C27H36N4O3
